US06448270B1
B)1-(4-(3-Aminophenyl)-3-butynyl)-4-(4-chlorophenyl)-4-hydroxypiperidine
A solution of 1-(3-butynyl)-4-(4-chlorophenyl)-4-hydroxypiperidine (263 mg, 1.00 mmol), 3-iodoaniline (208 mg, 0.950 mmol) and tetrakis(triphenylphosphine) palladium (0) (46 mg) in n-butylamine (5 mL) is allowed to reflux for 15 hr. The solvent is evaporated in vacuo to give a residue, which is purified by flash chromatography giving the product as an off white solid (231 mg, 69%): mp 139-140° C.; 1H NMR (CDCl3) 1.71 (m, 3 H), 2.12 (m, 2 H), 2.56 (m, 4 H), 2.73 (m, 2 H), 2.84 (m, 2 H), 3.60 (bs, 2 H), 6.59 (d, J=7.5 Hz, 1 H), 6.72 (s, 1 H), 6.79 (d, J=7.5 Hz, 1 H), 7.07 (dd, J1=J2=7.5 Hz, 1 H), 7.33 (d, J=9.7 Hz, 2 H), 7.46 (d, J=9.7 Hz, 2 H).

reactant | 1-(3-butynyl)-4-(4-chlorophenyl)-4-hydroxypiperidine | 1.00 mmol, 263 mg | C(CC#C)N1CCC(CC1)(O)C1=CC=C(C=C1)Cl | C15H18ClNO
reactant | 3-iodoaniline | 0.950 mmol, 208 mg | IC=1C=C(N)C=CC1 | C6H6IN
solvent | n-butylamine | 5 mL | C(CCC)N | C4H11N
catalyst | tetrakis(triphenylphosphine) palladium (0) | 46 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-(4-(3-Aminophenyl)-3-butynyl)-4-(4-chlorophenyl)-4-hydroxypiperidine | 231 mg, 69% | NC=1C=C(C=CC1)C#CCCN1CCC(CC1)(O)C1=CC=C(C=C1)Cl | C21H23ClN2O
